US05114944
2-(4-Chlorophenyl)-N,N-dimethylpyrazolo[1,5-a]pyrimidine-3-acetamide
A mixture of 4.0 g (0.013 mole) of 2-(4-chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid and 2.25 g (0.013 mole) of 1,1'carbonyldiimidazole in 150 ml of anhydrous tetrahydrofuran was stirred for 4 hours while a stream of nitrogen was bubbled through the mixture. A solution of dimethylamine in tetrahydrofuran (14.1 ml; 0.0417 mole; 2.59M) was added, and the reaction was stirred for 17 hours under nitrogen atmosphere. The solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane, washed with water, aqueous 7% sodium bicarbonate, and water, and dried over magnesium sulfate and re-evaporated under reduced pressure. The crystalline residue (4.0 g) was recrystallized from isopropanol to give 3.4 g (79%) of product, mp 174°-175.5° C.

reactant | 2-(4-chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.013 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H10ClN3O2
reactant | 1,1'carbonyldiimidazole | 0.013 mole, 2.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0417 mole, 2.59M, 14.1 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N,N-dimethylpyrazolo[1,5-a]pyrimidine-3-acetamide | 3.4 g, 79% | ClC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1CC(=O)N(C)C | C16H15ClN4O
